US08470819B2
Step A: Preparation of tert-butyl 4-[hydroxy(pyridin-3-yl)methyl]piperidine-1-carboxylate (i-15a)
3-Bromopyridine (116 μL, 1.20 mmol) was added slowly dropwise to a stirred suspension of n-butyllithium (480 μL of a 2.5 M hexanes solution, 1.20 mmol) in THF (1.00 mL) at −78° C. After 15 min, tert-butyl 4-formylpiperidine-1-carboxylate (213 mg, 1.00 mmol) was added, and the resulting mixture was allowed to stir at −78° C. After 1 h, the reaction was quenched with 1.0 M HCl, poured into satd. aq. NaHCO3 and extracted with EtOAc. The combined organics were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 10%-100% EtOAc/DCM as eluent) afforded the title compound i-15a. 1H NMR (500 MHz, CDCl3): δ 8.55 (m, 2H), 7.70 (d, 1H, J=8.0 Hz), 7.32 (dd, 1H, J=4.9, 7.4 Hz), 4.49 (m, 1H), 4.15 (m, 4H), 2.65 (m, 2H), 1.83 (m, 1H), 1.79 (m, 1H), 1.46 (s, 9H), 1.31 (m, 1H).

reactant | 3-Bromopyridine | 1.20 mmol, 116 μL | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 1.00 mmol, 213 mg | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-[hydroxy(pyridin-3-yl)methyl]piperidine-1-carboxylate | OC(C1CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC=CC1 | C16H24N2O3
